US04009273
8 g of 10-hydroxy-10,11-dihydro-5,10-imino-[5H]-dibenzo (a,d) cycloheptene-11-one dl were added at 10° C to 400 ml of dioxane containing 16 g of lithium aluminum hydride and the mixture was refluxed for 3 days. 8 g of lithium aluminum hydride were added thereto and the mixture was refluxed for another 48 hours and after cooling, 700 ml of tetrahydrofuran, 150 ml of isopropanol, 50 ml of water and then 250 ml of concentrated hydrochloric acid were added thereto. The tetrahydrofuran and the dioxane were distilled off and 1000 ml of methylene chloride containing 20% methanol were added thereto. The mixture was made alkaline with sodium hydroxide addition and was extracted with methylene chloride containing 20% methanol. The extracts were washed with water, dried over magnesium sulfate and concentrated to dryness. The oil residue was dissolved in methylene chloride and the solution was washed with 2N hydrochloric acid. The combined acid wash waters were made alkaline with sodium hydroxide and extracted twice with ether. The ether solution was washed with water, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 92.5-7.5 chloroform-methanol mixture. Crystallization from methylene chloride gave 11-hydroxy-10,11-dihydro-5,10-imino-[5H]-dibenzo (a,d) cycloheptene dl cis melting at 200° and then 210° C.

reactant | 10-hydroxy-10,11-dihydro-5,10-imino-[5H]-dibenzo (a,d) cycloheptene-11-one | 8 g | OC12C(C3=C(C(C4=C1C=CC=C4)N2)C=CC=C3)=O | C15H11NO2
reactant | dioxane | 16 g | O1CCOCC1 | C4H8O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 11-hydroxy-10,11-dihydro-5,10-imino-[5H]-dibenzo (a,d) cycloheptene | OC1C2=C(C3C4=C(C1N3)C=CC=C4)C=CC=C2 | C15H13NO
